US05451596
A mixture of 4-(benzoxazol-2-yl)benzyl bromide (0.6 g; 2.08 mmol) and triphenylphosphine (0.55 g; 2.08 mmol) in 40 ml benzene is refluxed for 48 hrs. The reaction mixture is cooled, the white solid which precipitates is filtered off, dried under vacuum to get 4-(benzoxazol-2-yl)benzyltriphenylphosphonium bromide and used directly in the next step.

reactant | 4-(benzoxazol-2-yl)benzyl bromide | 2.08 mmol, 0.6 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
reactant | triphenylphosphine | 2.08 mmol, 0.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 4-(benzoxazol-2-yl)benzyltriphenylphosphonium bromide | [Br-].O1C(=NC2=C1C=CC=C2)C2=CC=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C2 | InChI=1S/C32H25NOP.BrH/c1-4-12-27(13-5-1)35(28-14-6-2-7-15-28,29-16-8-3-9-17-29)24-25-20-22-26(23-21-25)32-33-30-18-10-11-19-31(30)34-32;/h1-23H,24H2;1H/q+1;/p-1
